US05994378
A mixture of methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(N',N'-dimethylcarbamoylmethoxy)indole-3-acetate (0.15 g) and 1N-lithium hydroxide (0.52 ml) in methanol (2 ml) was stirred at room temperature for 8 hours. After removal of solvent, the residue was dissolved into water and the solution was acidified with diluted hydrochloric acid. The resulting precipitates were collected by filtration and washed with water to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(N',N'-dimethylcarbamoylmethoxy)indole-3-acetic acid (80 mg).

reactant | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(N',N'-dimethylcarbamoylmethoxy)indole-3-acetate | 0.15 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCC(N(C)C)=O)CC(=O)OC | C31H33N3O5S
reactant | lithium hydroxide | 0.52 ml | [OH-].[Li+]
solvent | methanol | 2 ml | CO | CH4O
product | 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(N',N'-dimethylcarbamoylmethoxy)indole-3-acetic acid | 80 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCC(N(C)C)=O)CC(=O)O | C30H31N3O5S
